US07723330B2
Step C: Preparation of N-(3-fluoro-4-(3-(pyrrolidin-3-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 100 mL round-bottomed flask was charged with N-(4-(1-(4-methoxybenzyl)-3-(pyrrolidin-3-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (40.8 mg, 0.0614 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 80° C. overnight. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give product, which was further purified by preparative HPLC to afford product (1.9 mg, 5.68%). LRMS (APCI pos): m/e 545 (M+1). 1H NMR (400 MHz, CD3OD δ 11.96 (s, 1H), 8.36 (d, 1H), 8.31 (d, 1H), 8.19 (d, 1H), 8.04 (dd, 1H), 7.68 (m, 2H), 7.51 (d, 1H), 7.40 (t, 1H), 7.29 (m, 2H), 6.16 (d, 1H), 4.48 (m, 1H), 3.56 (m, 3H), 3.39 (m, 1H), 2.42 (m, 1H), 2.32 (m, 1H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(pyrrolidin-3-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.0614 mmol, 40.8 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)NC3CNCC3)C=C1 | C35H30F2N8O4
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(pyrrolidin-3-ylamino)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 1.9 mg, 5.68% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2NC2CNCC2)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C27H22F2N8O3
